US04980349
Preparation of ethyl 11-(2-benzoyl-4-chlorobenzenesulphonamido)undecanoate IC-1740
7 ml of anhydrous triethylamine are added to 5.3 g of ethyl 11-aminoundecanoate hydrochloride in 30 ml of anhydrous methylene chloride and, after stirring for one hour at ambient temperature, 6.3 g of 2-benzoyl-4-chlorobenzenesulphonyl chloride are added dropwise. After stirring for 12 hours, the reaction medium is evaporated to dryness under vacuum, taken up with water and extracted with ethyl acetate. The organic phase which is washed with water until the washings are free of Cl- ions is dried over sodium sulphate and evaporated to dryness under vacuum.

reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 11-aminoundecanoate hydrochloride | 5.3 g | Cl.NCCCCCCCCCCC(=O)OCC
reactant | 2-benzoyl-4-chlorobenzenesulphonyl chloride | 6.3 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C13H8Cl2O3S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl 11-(2-benzoyl-4-chlorobenzenesulphonamido)undecanoate | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)S(=O)(=O)NCCCCCCCCCCC(=O)OCC | C26H34ClNO5S
